US05459138
EXAMPLE 79: 4-ETHYL-6-METHYL-2,3-DIHYDRO-4H-PYRIDO[3,2-e ][1,2,4]THIADIAZINE 1,1-DIOXIDE
A solution of 0.6 g of 4-ethyl-6-methyl-4H- pyrido[3,2-e][1,2,4]thiadiazine 1,1-dioxide (Example 78}in 30 cm3 of a 1/1 isopropanol/chloroform mixture is treated, in small portions, with 0.45 g of sodium borohydride with good stirring and under an inert atmosphere. After 30 minutes at ambient temperature, the excess borohydride is destroyed by addition of a few drops of acetic acid and the solvent is removed under reduced pressure. The residue is taken up in 10 cm3 of water and the pH of the mixture is brought to neutrality. The precipitate obtained is collected on a filter, washed with water and dried.

reactant | 4-ethyl-6-methyl-4H- pyrido[3,2-e][1,2,4]thiadiazine 1,1-dioxide | 0.6 g | C(C)N1C=NS(C2=C1C=C(C=N2)C)(=O)=O | C9H11N3O2S
reactant | sodium borohydride | 0.45 g | [BH4-].[Na+]
solvent | isopropanol chloroform | C(C)(C)O.C(Cl)(Cl)Cl
product | 4-ETHYL-6-METHYL-2,3-DIHYDRO-4H-PYRIDO[3,2-e ][1,2,4]THIADIAZINE 1,1-DIOXIDE | C(C)N1CNS(C2=C1C=C(C=N2)C)(=O)=O | C9H13N3O2S
